data/mechanisms/records/IMS8-EQ8.47.json
{"mechanism_id": "IMS8-EQ8.47", "species": [{"species_id": "protonated_1_4_diaminobutane", "mapped_smiles": "[NH2:1][CH2:2][CH2:3][CH2:4][CH2:5][NH3+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "pyrrolidinium_ion", "mapped_smiles": "[NH2+:1]1[CH2:2][CH2:3][CH2:4][CH2:5]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ammonia", "mapped_smiles": "[NH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_1_4_diaminobutane"]}, {"state_id": "state_products", "species_ids": ["pyrrolidinium_ion", "ammonia"]}], "steps": [{"step_id": "step_neighboring_group_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "neighboring_group_participation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_47", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_neighboring_group_displacement", "support_type": "textbook_proposed", "locator": {"page": 176, "equation": "8.47", "figure": null, "panel": null, "section": "8 Detailed Mechanisms of Ion Fragmentation (Eq. 8.47, EE+ loss of NH3 from a protonated diamine)"}, "confidence": 0.85, "curator_note": "Anchimeric (neighbouring-group) displacement in the protonated 1,4-diaminobutane [M+H]+ (H2N(CH2)4N(+)H3): the neutral amine N1 lone pair attacks the terminal carbon C5 that bears the ammonium, forming the new N1-C5 bond and closing a five-membered ring, while the C5-N6 bond breaks heterolytically to expel neutral NH3. Charge migrates from N6 to N1; the product is the protonated pyrrolidine (pyrrolidinium) ion, drawn as the H2N(+) pentagon. Book draws 2 arcs; both encoded moves are drawn: move<1> (N1 lone pair -> new N1-C5 bond) and move<2> (C5-N6 bonding pair -> N6) are the two double-barbed curved arrows shown on the page. n=4 is highlighted as the sterically favourable case giving maximum NH3 loss (Audier et al. 1978). Validator soft notes 'lone pair rather than radicals' on atoms 1 and 6 are expected (both moves shuttle 2-electron lone pairs, not radicals)."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 89.1068, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_72", "species_id": "pyrrolidinium_ion", "step_id": "step_neighboring_group_displacement", "observed_mz": 72.0802, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
